US09328118B2
tert-Butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate (7.7 g) and 1,1′-(azodicarbonyl)dipiperidine (11.6 g) were added to a mixture of 5-bromo-3-(trifluoromethyl)pyridine-2-ol (7 g) and toluene (124 mL) at room temperature. Tributylphosphine (11.6 mL) was added thereto under ice-cooling, and the mixture was stirred at room temperature overnight. After diisopropylether was added to the reaction mixture, the mixture was stirred, and the insoluble material was separated by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (Hex:EtOAc=100:0 to 70:30), whereby tert-butyl 4-(2-{[5-bromo-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate (8.93 g) was obtained as a colorless oil.

reactant | tert-Butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate | 7.7 g | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 11.6 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 5-bromo-3-(trifluoromethyl)pyridine-2-ol | 7 g | BrC=1C=C(C(=NC1)O)C(F)(F)F | C6H3BrF3NO
reactant | Tributylphosphine | 11.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 124 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(2-{[5-bromo-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate | 8.93 g | BrC=1C=C(C(=NC1)OCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C18H24BrF3N2O3
